US05486512
To a solution of 2 g of 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one in 100 mL of glacial acetic acid at 50° C. was added an intimately mixed mixture of 15 g zinc dust and 15 g silica gel (column chromatography grade). To this mechanically stirred suspension was added dropwise concentrated hydrochloric acid, while the progress of the reaction was followed by TLC (20:1 CHCl3 :MeOH, basified aliquots, extracted into chloroform). When the reaction was essentially complete, excess zinc was filtered off (pyrophoric!) the filtrate was concentrated in vacuo, basified, extracted with chloroform, and the crude extract was chromatographed using 20:1 chloroform:methanol as eluent on a silica gel column. The corresponding fractions after concentration in vacuo gave the 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazolin-12-ol as an off-white crystalline solid.

reactant | 1,3-dichloro-7,8,9,10-tetrahydroazepino[2,1-b]quinazolin-12(6H)-one | 2 g | ClC1=C2C(N3C(=NC2=CC(=C1)Cl)CCCCC3)=O | C13H12Cl2N2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 15 g | [Zn] | Zn
product | 1,3-dichloro-6,7,8,9,10,12-hexahydroazepino[2,1-b]quinazolin-12-ol | ClC1=C2C(N3C(=NC2=CC(=C1)Cl)CCCCC3)O | C13H14Cl2N2O
